### PR TITLE
[Merged by Bors] - feat(Algebra/Order/Ring/Ordering): basic results about ring (pre)orderings

### PR DESCRIPTION
**Pull request by artie2000**
* Basic automation for membership of ring orderings
* Alternative constructors for ring preorderings and ring orderings
* Basic results about ring preorderings and their supports, including the special case over a field

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #27282

### CODE REVIEW

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,218 @@
...
+-/
+import Mathlib.Algebra.Field.IsField
+import Mathlib.Algebra.Order.Ring.Ordering.Defs
+import Mathlib.Algebra.Ring.SumsOfSquares
+import Mathlib.Order.OmegaCompletePartialOrder
+import Mathlib.Tactic.FieldSimp
+import Mathlib.Tactic.LinearCombination
+
+/-!
+
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:14]: Title?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,218 @@
...
+-/
+
+namespace RingPreordering
+
+@[mono]
+theorem toSubsemiring_strictMono : StrictMono (toSubsemiring : RingPreordering R → _) :=
+  fun _ _ => id
+
+theorem toSubsemiring_le {P₁ P₂ : RingPreordering R} :
+    P₁.toSubsemiring ≤ P₂.toSubsemiring ↔ P₁ ≤ P₂ := .rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Simp?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,218 @@
...
+
+@[mono]
+theorem toSubsemiring_mono : Monotone (toSubsemiring : RingPreordering R → _) :=
+  toSubsemiring_strictMono.monotone
+
+@[aesop unsafe 90% apply (rule_sets := [SetLike])]
+theorem inv_mem {a : Rˣ} (ha : ↑a ∈ P) : ↑a⁻¹ ∈ P := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
theorem unitsInv_mem {a : Rˣ} (ha : ↑a ∈ P) : ↑a⁻¹ ∈ P := by
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,218 @@
...
+  have : (a * (a⁻¹ * a⁻¹) : R) ∈ P := by aesop (config := { enableSimp := false })
+  simp_all
+
+@[aesop unsafe 90% apply (rule_sets := [SetLike])]
+theorem Field.inv_mem {F : Type*} [Field F] {P : RingPreordering F} {a : F} (ha : a ∈ P) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
theorem inv_mem {F : Type*} [Field F] {P : RingPreordering F} {a : F} (ha : a ∈ P) :
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,218 @@
...
+  induction hx using IsSumSq.rec' <;> aesop
+
+section mkOfSubsemiring
+
+variable {R : Type*} [CommRing R] {P : Subsemiring R}
+  {le : Subsemiring.sumSq R ≤ P} {minus : -1 ∉ P}
+
+variable (P le minus) in
+/-- Construct a preordering from a subsemiring. -/
+def mkOfSubsemiring : RingPreordering R where toSubsemiring := P
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: This is already `RingPreordering.mk` (except for `mem_of_isSquare'` being different to `le`, but that means you should instead provide an auxiliary lemma to satisfy `mem_of_isSquare'` from `le`)

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,218 @@
...
+    (h : ∀ {x y}, x * y ∈ P.support → x ∈ P.support ∨ y ∈ P.support) : P.IsOrdering where
+  ne_top' := support_ne_top P
+  mem_or_mem' := h
+
+end ne_top
+
+namespace HasIdealSupport
+
+theorem smul_mem [P.HasIdealSupport]
+  (x : R) {a : R} (h₁a : a ∈ P) (h₂a : -a ∈ P) : x * a ∈ P := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
    (x : R) {a : R} (h₁a : a ∈ P) (h₂a : -a ∈ P) : x * a ∈ P := by
```
Same below

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,218 @@
...
+  simp [*]
+
+theorem neg_smul_mem [P.HasIdealSupport]
+  (x : R) {a : R} (h₁a : a ∈ P) (h₂a : -a ∈ P) : -(x * a) ∈ P := by
+  rw [hasIdealSupport_iff] at ‹P.HasIdealSupport›
+  simp [*]
+
+end HasIdealSupport
+
+theorem hasIdealSupport_of_isUnit_2 (isUnit_2 : IsUnit (2 : R)) : P.HasIdealSupport := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
theorem hasIdealSupport_of_isUnit_two (isUnit_2 : IsUnit (2 : R)) : P.HasIdealSupport := by
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,218 @@
...
+
+variable [HasMemOrNegMem P]
+
+@[aesop unsafe 70% apply]
+theorem neg_mem_of_notMem (x : R) (h : x ∉ P) : -x ∈ P := by
+  have := mem_or_neg_mem P x
+  simp_all
+
+@[aesop unsafe 70% apply]
+theorem mem_of_not_neg_mem (x : R) (h : -x ∉ P) : x ∈ P := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
theorem mem_of_neg_notMem (x : R) (h : -x ∉ P) : x ∈ P := by
```
sadly

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,218 @@
...
+  have := mem_or_neg_mem P x
+  simp_all
+
+end HasMemOrNegMem
+
+theorem isOrdering_iff :
+    P.IsOrdering ↔ (∀ a b : R, -(a * b) ∈ P → a ∈ P ∨ b ∈ P) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
    P.IsOrdering ↔ ∀ a b : R, -(a * b) ∈ P → a ∈ P ∨ b ∈ P := by
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,218 @@
+/-
+Copyright (c) 2024 Florent Schaffhauser. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Florent Schaffhauser, Artie Khovanov
+-/
+import Mathlib.Algebra.Field.IsField
+import Mathlib.Algebra.Order.Ring.Ordering.Defs
+import Mathlib.Algebra.Ring.SumsOfSquares
+import Mathlib.Order.OmegaCompletePartialOrder
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Surely you aren't actually talking about omega-complete partial order?
```suggestion
```

Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: This is what min_imports told me to do
I will minimise manually

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: I know, yes, because a lot of typeclass synthesis for `PartialOrder` go through `CompletePartialOrder`

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 2 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: [Submodule.toAddSubgroup_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Submodule/Basic.html#Submodule.toAddSubgroup_le) does not have `simp`

However, the reverse direction should be marked gcongr by analogy to [GCongr.Submodule.toAddSubgroup_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Submodule/Basic.html#GCongr.Submodule.toAddSubgroup_le) and [Subring.toAddSubgroup_le_toAddSubgroup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Ring/Subring/Basic.html#Subring.toAddSubgroup_le_toAddSubgroup)

(done)

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: > [Submodule.toAddSubgroup_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Submodule/Basic.html#Submodule.toAddSubgroup_le) does not have `simp`

I am pretty sure that's an oversight

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 5 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: I will provide the necessary `aesop` automation for the auxillary lemma to be discharged automatically, in a separate PR
For now I'll just delete this constructor

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 2 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: I can't find any other instance of this being simp 🤷

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,205 @@
...
+@[mono]
+theorem toSubsemiring_strictMono : StrictMono (toSubsemiring : RingPreordering R → _) :=
+  fun _ _ => id
+
+@[mono]
+theorem toSubsemiring_mono : Monotone (toSubsemiring : RingPreordering R → _) :=
+  toSubsemiring_strictMono.monotone
+
+theorem toSubsemiring_le {P₁ P₂ : RingPreordering R} :
+    P₁.toSubsemiring ≤ P₂.toSubsemiring ↔ P₁ ≤ P₂ := .rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
theorem toSubsemiring_le_toSubsemiring {P₁ P₂ : RingPreordering R} :
    P₁.toSubsemiring ≤ P₂.toSubsemiring ↔ P₁ ≤ P₂ := .rfl
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,205 @@
...
+
+@[gcongr]
+alias ⟨_, toSubsemiring_le_toSubsemiring⟩ := toSubsemiring_le
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
alias ⟨_, GCongr.toSubsemiring_le_toSubsemiring⟩ := toSubsemiring_le
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by artie2000** [comment]
Would appreciate review by somebody who knows more than me about the mathematical aspects of the theory
@YaelDillies are you aware of any such people?

**Comment by YaelDillies** [comment]
@matematiflo ?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,204 @@
...
+  simp [*]
+
+theorem neg_smul_mem [P.HasIdealSupport]
+    (x : R) {a : R} (h₁a : a ∈ P) (h₂a : -a ∈ P) : -(x * a) ∈ P := by
+  rw [hasIdealSupport_iff] at ‹P.HasIdealSupport›
+  simp [*]
+
+end HasIdealSupport
+
+theorem hasIdealSupport_of_invertible_2 [Invertible (2 : R)] : P.HasIdealSupport := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
theorem hasIdealSupport_of_invertible_two [Invertible (2 : R)] : P.HasIdealSupport := by
```
Should that be an instance?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,204 @@
...
+  intro x a _ _
+  set y := (1 + x) * ⅟2
+  set z := (1 - x) * ⅟2
+  rw [show x = y ^ 2 - z ^ 2 by
+    linear_combination (- x - x * ⅟2 * 2) * invOf_mul_self (2 : R)]
+  ring_nf
+  aesop (add simp sub_eq_add_neg)
+
+theorem supportAddSubgroup_eq_bot_iff_support_eq_bot [P.HasIdealSupport] :
+    P.supportAddSubgroup = ⊥ ↔ P.support = ⊥ where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: simp?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 13 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Still not sure what to do after that Zulip discussion
can't decide between `instance ... [Fact (IsUnit 2)]` and `theorem ... (h2 : IsUnit 2)`

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: LHS is not in simp-normal form
I can add the simp version if you think it's a good idea

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Why not both?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: What would be the simp version?

Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: `P.support.toAddSubgroup`

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Aah right, then why do you even have this lemma? Isn't it proved by simp from two more atomic lemmas?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,205 @@
...
+
+@[mono]
+theorem toSubsemiring_strictMono : StrictMono (toSubsemiring : RingPreordering R → _) :=
+  fun _ _ => id
+
+@[mono]
+theorem toSubsemiring_mono : Monotone (toSubsemiring : RingPreordering R → _) :=
+  toSubsemiring_strictMono.monotone
+
+theorem toSubsemiring_le_toSubsemiring {P₁ P₂ : RingPreordering R} :
```
Comment (vihdzp) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: a) should this be `simp`?
b) is it worth having the `<` version as well? (is it true?)

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: If you always want `simp` to unfold `supportAddSubgroup`, might I ask why you even have it as a separate definition? 

It should either be made a private auxiliary definition, or that simp lemma should be the other way around.

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,205 @@
...
+  rw [← supportAddSubgroup_eq_bot_iff_support_eq_bot]
+  exact supportAddSubgroup_eq_bot P
+
+instance : P.support.IsPrime := by simpa using Ideal.bot_prime
+
+end Field
+
+section HasMemOrNegMem
+
+variable [HasMemOrNegMem P]
```
Comment (vihdzp) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: This should probably be moved to wherever `HasMemOrNeg` is defined (unless there's extra hypotheses I'm not considering)

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (Rob23oba) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: I suppose because `P.support.toAddSubgroup` requires `HasIdealSupport` and `supportAddSubgroup` doesn't?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 16 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: oops forgot to remove this when I upstreamed it!

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 15 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: (a) such lemmas are not normally marked `simp` - not sure why
(b) yes it's true - see the lemma `toSubsemiring_strictMono` just above

Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: I have added an "unfolded" simp lemma there

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 16 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:172]: oops that was already merged separately and shouldn't hacve been there! good spot sorry!

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: I've tried generalising and moving, but not really happy with the outcome
surely there is a cleaner proof of this fact than the `apply_fun` tactic
maybe some automation is missing

**Comment by artie2000** [comment]
(intentionally keeping `awaiting-author` since I am not happy with where I put the new lemmas)

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,189 @@
...
+section mk'
+
+variable {R : Type*} [CommRing R] {P : Set R} {add} {mul} {sq} {minus}
+
+/-- Construct a preordering from a minimal set of axioms. -/
+def mk' {R : Type*} [CommRing R] (P : Set R)
+    (add : ∀ {x y : R}, x ∈ P → y ∈ P → x + y ∈ P)
+    (mul : ∀ {x y : R}, x ∈ P → y ∈ P → x * y ∈ P)
+    (sq : ∀ x : R, x * x ∈ P)
+    (minus : -1 ∉ P) :
```
Comment (vihdzp) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
    (neg_one : -1 ∉ P) :
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,189 @@
...
+  simp [*]
+
+theorem neg_smul_mem [P.HasIdealSupport]
+    (x : R) {a : R} (h₁a : a ∈ P) (h₂a : -a ∈ P) : -(x * a) ∈ P := by
+  rw [hasIdealSupport_iff] at ‹P.HasIdealSupport›
+  simp [*]
+
+end HasIdealSupport
+
+theorem hasIdealSupport_of_isUnit_2 (h : IsUnit (2 : R)) : P.HasIdealSupport := by
```
Comment (vihdzp) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
theorem hasIdealSupport_of_isUnit_two (h : IsUnit (2 : R)) : P.HasIdealSupport := by
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,189 @@
...
+
+@[simp] theorem support_eq_bot : P.support = ⊥ := by
+  simpa using supportAddSubgroup_eq_bot P
+
+instance : P.support.IsPrime := by simpa using Ideal.bot_prime
+
+end Field
+
+theorem isOrdering_iff :
+    P.IsOrdering ↔ ∀ a b : R, -(a * b) ∈ P → a ∈ P ∨ b ∈ P := by
```
Comment (vihdzp) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:168]: I feel like you'll be fighting `simp` a bit less if you instead write this as
```suggestion
    P.IsOrdering ↔ ∀ a b : R, -a * b ∈ P → a ∈ P ∨ b ∈ P := by
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,189 @@
...
+### Preorderings
+-/
+
+namespace RingPreordering
+
+@[mono]
+theorem toSubsemiring_strictMono : StrictMono (toSubsemiring : RingPreordering R → _) :=
+  fun _ _ => id
+
+theorem toSubsemiring_lt_toSubsemiring {P₁ P₂ : RingPreordering R} :
```
Comment (vihdzp) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:34]: I'd personally put this just above the `le` version.

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 19 above)
Comment (Rob23oba) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:168]: Why? The `simp` lemma `neg_mul` goes `-a * b ==> -(a * b)`

Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:168]: My bad! Most `simp` lemmas go the other way around, so I misremembered this one.

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:34]: I'd put it just below, but yes

File: Mathlib/Algebra/Module/Submodule/Lattice.lean [hunk 21]
```diff
@@ -118,6 +119,15 @@ theorem eq_bot_of_subsingleton [Subsingleton p] : p = ⊥ :=
 theorem nontrivial_iff_ne_bot : Nontrivial p ↔ p ≠ ⊥ := by
   rw [iff_not_comm, not_nontrivial_iff_subsingleton, subsingleton_iff_eq_bot]
 
+@[simp]
+theorem toAddSubgroup_eq_bot_iff
```
Comment (YaelDillies) [inline Mathlib/Algebra/Module/Submodule/Lattice.lean]:
```suggestion
theorem toAddSubgroup_eq_bot
```
is the usual pattern here

File: Mathlib/Algebra/Module/Submodule/Lattice.lean [hunk 22]
```diff
@@ -12,6 +12,7 @@ import Mathlib.Algebra.Module.PUnit
 import Mathlib.Data.Set.Subsingleton
 import Mathlib.Data.Finset.Lattice.Fold
 import Mathlib.Order.ConditionallyCompleteLattice.Basic
+import Mathlib.Tactic.ApplyFun
```
Comment (YaelDillies) [inline Mathlib/Algebra/Module/Submodule/Lattice.lean]:
```suggestion

```

File: Mathlib/Algebra/Module/Submodule/Lattice.lean [hunk 23]
```diff
@@ -118,6 +119,15 @@ theorem eq_bot_of_subsingleton [Subsingleton p] : p = ⊥ :=
...
   rw [iff_not_comm, not_nontrivial_iff_subsingleton, subsingleton_iff_eq_bot]
 
+@[simp]
+theorem toAddSubgroup_eq_bot_iff
+    {R M : Type*} [Ring R] [AddCommGroup M] [Module R M] (m : Submodule R M) :
+    m.toAddSubgroup = ⊥ ↔ m = ⊥ where
+  mp h := by
+    apply_fun Submodule.toAddSubgroup using Submodule.toAddSubgroup_injective
+    simpa using h
+  mpr h := by simp [h]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Module/Submodule/Lattice.lean]:
```suggestion
    m.toAddSubgroup = ⊥ ↔ m = ⊥ := toAddSubgroup_inj _ ⊥
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 20 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:34]: it is already just above, isn't it?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean (hunk 14 above)
Comment (artie2000) [reply Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: yeah OK I see it's trivial after all

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,189 @@
...
+
+@[mono]
+theorem toSubsemiring_mono : Monotone (toSubsemiring : RingPreordering R → _) :=
+  toSubsemiring_strictMono.monotone
+
+theorem toSubsemiring_le_toSubsemiring {P₁ P₂ : RingPreordering R} :
+    P₁.toSubsemiring ≤ P₂.toSubsemiring ↔ P₁ ≤ P₂ := .rfl
+
+@[gcongr]
+alias ⟨_, GCongr.toSubsemiring_le_toSubsemiring⟩ := toSubsemiring_le_toSubsemiring
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]: Heree's Violeta suggestion concretely:
```suggestion
theorem toSubsemiring_le_toSubsemiring {P₁ P₂ : RingPreordering R} :
    P₁.toSubsemiring ≤ P₂.toSubsemiring ↔ P₁ ≤ P₂ := .rfl

theorem toSubsemiring_lt_toSubsemiring {P₁ P₂ : RingPreordering R} :
    P₁.toSubsemiring < P₂.toSubsemiring ↔ P₁ < P₂ := .rfl

@[gcongr] alias ⟨_, GCongr.toSubsemiring_le_toSubsemiring⟩ := toSubsemiring_le_toSubsemiring
@[gcongr] alias ⟨_, GCongr.toSubsemiring_lt_toSubsemiring⟩ := toSubsemiring_lt_toSubsemiring

@[mono]
theorem toSubsemiring_mono : Monotone (toSubsemiring : RingPreordering R → _) :=
  fun _ _ => id

@[mono]
theorem toSubsemiring_strictMono : StrictMono (toSubsemiring : RingPreordering R → _) :=
  fun _ _ => id
```
Btw no one uses `mono` anymore, so I wouldn't bother having the `@[mono]`

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,186 @@
...
+    refine IsOrdering.mk' P (fun {x y} _ => ?_)
+    by_contra
+    cases (by aesop : x ∈ P ∨ -x ∈ P) with
+    | inl =>  have := h (-x) y
+              have := h (-x) (-y)
+              simp_all [mem_support]
+    | inr =>  have := h x y
+              have := h x (-y)
+              simp_all [mem_support]
+
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean]:
```suggestion
    have := h (-x) y
    have := h (-x) (-y)
    have := h x y
    have := h x (-y)
    cases (by aesop : x ∈ P ∨ -x ∈ P) <;> simp_all [mem_support]
```
seems a bit cleaner maybe

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge
